US05620997
2,2'-Dithiobis[N-[4-[(acetylamino)sulfonyl]phenyl] benzamide]
The compound was prepared according to the general method of Preparation 9 using 2,2'-dithiobisbenzoyl chloride (3.0 g, 8.0 mmol) in 30 mL of dichloromethane and 4-[(acetylamino)sulfonyl]aniline (5.6 g, 26.0 mmol) in 100 mL of pyridine. The crude product was purified on a silica gel column using chloroform/methanol (1:1 v/v) as the mobile phase. The pure fractions were pooled, concentrated in vacuo, and the solid was crystallized from ethanol/water (1:1 v/v) to yield 0.5 g of the title compound, mp 180°-182° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 8.0 mmol, 3.0 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-[(acetylamino)sulfonyl]aniline | 26.0 mmol, 5.6 g | C(C)(=O)NS(=O)(=O)C1=CC=C(N)C=C1 | C8H10N2O3S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[4-[(acetylamino)sulfonyl]phenyl] benzamide] | 0.5 g | C(C)(=O)NS(=O)(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)NC(C)=O)C=CC=C1)=O | C30H26N4O8S4
